US06495546B1
8-[[(2S)-2-Hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester hydrochloride (8.40 g) was converted to the corresponding free base in a usual manner. The free base was dissolved in tetrahydrofuran (60 ml), and a solution of di-tert-butyl dicarbonate (4.52 g) in tetrahydrofuran (10 ml) was added to the mixture. After stirring overnight, the reaction mixture was evaporated in vacuo, and the residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (5:1 to 3:1) to afford 8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]-amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester (9.88 g).

reactant | 8-[[(2S)-2-Hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester hydrochloride | 8.40 g | Cl.COC(=O)C=1C=CC2=C(CC(CCC2)NC[C@@H](COC2=CC=CC=C2)O)C1
reactant | di-tert-butyl dicarbonate | 4.52 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]-amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester | 9.88 g | COC(=O)C=1C=CC2=C(CC(CCC2)N(C[C@@H](COC2=CC=CC=C2)O)C(=O)OC(C)(C)C)C1 | C27H35NO6
